US07795315B2
(E)-3-{4-[[Formyl-(2-morpholin-4-yl-ethyl)-amino]-(4-trifluoromethyl-phenylcarbamoyl)-methyl]-phenyl}-acrylic acid methyl ester
A solution of 4-formylcinnamic acid methyl ester (3.66 g, 19.2 mmol), 4-(trifluoromethyl)-phenyl isocyanide (3.32 g, 19.2 mmol), 2-morpholinoethylamine (2.50 g, 19.2 mmol) and formic acid solution in methanol (12.9 mL, 1.5M) in methanol (9 mL) was stirred at 80 degrees Celcius for 8 hours. After solvent removal, the crude product was directly purified by flash column chromatography over silica gel (dichloromethane/methanol, 100:1 to 20:1, v:v) to yield the desired product (5 g, 50.2%). MS: calc'd 520 (MH+) exp 520 (MH+).

reactant | 4-formylcinnamic acid methyl ester | 19.2 mmol, 3.66 g | COC(C=CC1=CC=C(C=C1)C=O)=O | C11H10O3
reactant | 4-(trifluoromethyl)-phenyl isocyanide | 19.2 mmol, 3.32 g | FC(C1=CC=C(C=C1)[N+]#[C-])(F)F | C8H4F3N
reactant | 2-morpholinoethylamine | 19.2 mmol, 2.50 g | O1CCN(CC1)CCN | C6H14N2O
reactant | formic acid | C(=O)O | CH2O2
reactant | methanol | 1.5M, 12.9 mL | CO | CH4O
reactant | methanol | 9 mL | CO | CH4O
product | (E)-3-{4-[[Formyl-(2-morpholin-4-yl-ethyl)-amino]-(4-trifluoromethyl-phenylcarbamoyl)-methyl]-phenyl}-acrylic acid methyl ester | 5 g, 50.2% | COC(\C=C\C1=CC=C(C=C1)C(C(NC1=CC=C(C=C1)C(F)(F)F)=O)N(CCN1CCOCC1)C=O)=O | C26H28F3N3O5
